US05059347
1-dodecanol;
1-tridecanol; 1-tetradecanol; 1-pentadecanol; 1-hexadecanol;

reactant | 1-tridecanol | C(CCCCCCCCCCCC)O | C13H28O
reactant | 1-tetradecanol | C(CCCCCCCCCCCCC)O | C14H30O
reactant | 1-pentadecanol | C(CCCCCCCCCCCCCC)O | C15H32O
reactant | 1-hexadecanol | C(CCCCCCCCCCCCCCC)O | C16H34O
product | 1-dodecanol | C(CCCCCCCCCCC)O | C12H26O
